US07402581B2
(4-Fluoro-2-methylphenyl)acetonitrile (6.0 g, 40 mmol), dissolved in THF (25 mL), was added to a suspension of NaH (2.1 g, 60% in mineral oil, 52 mmol) in THF (25 mL) under a stream of nitrogen. The mixture was then heated to reflux, which initiated the reaction. The reaction proceeded without external heating for 1 h whereupon the visual generation of gas ceased. The mixture was cooled and then 2-(2-bromoethoxy)tetrahydro-2H-pyran (10.9 g, 52 mmol), dissolved in THF (25 mL), was added. The mixture was stirred at 0° C. for 30 min and then at room temperature overnight. The mixture was poured over an aqueous solution of NH4Cl, which was extracted twice with ether. The combined organic solutions were dried over Na2SO4 and then the solvent was evaporated. The product was purified by chromatography on silica gel using CH2Cl2 and there was obtained 8.1 g (72%) of 2-(4-fluoro-2-methylphenyl)-4-(tetrahydro-2H-pyran-2-yloxy)butanenitrile as an oil. 1H NMR (300 MHz, CDCl3): 1.4-2.2 (m, 8H), 2.4 (s, 3H), 3.4-3.6 (m, 2H), 3.8-4.0 (m, 2H), 4.2 (m, 1H), 4.6 (m, 1H), 6.8-7.0 (m, 2H), 7.4 (m, 1H).

reactant | (4-Fluoro-2-methylphenyl)acetonitrile | 40 mmol, 6.0 g | FC1=CC(=C(C=C1)CC#N)C | C9H8FN
reactant | NaH | 52 mmol, 2.1 g | [H-].[Na+]
reactant | 2-(2-bromoethoxy)tetrahydro-2H-pyran | 52 mmol, 10.9 g | BrCCOC1OCCCC1 | C7H13BrO2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 2-(4-fluoro-2-methylphenyl)-4-(tetrahydro-2H-pyran-2-yloxy)butanenitrile | 8.1 g, 72% | FC1=CC(=C(C=C1)C(C#N)CCOC1OCCCC1)C | C16H20FNO2
